US06939845B2
2-Pent-3-enyl-3,4-dihydro-2H-pyran
The cyclic vinyl ether (2 eq.) was added to a suspension of the hydroxy-acetophenone (10 mmol) in toluene (10 ml), followed by trifluoroacetic acid (2 or 3 drops, ˜0.01 eq.). The mixture was heated at 50° C. When the reaction was complete (TLC, 2-3 hours), it was diluted with MTBE and poured into aq. NaHCO3 (sat.). The aqueous phase was separated and extracted with MTBE, and the combined organic layers were washed with brine and dried over MgSO4. The crude, obtained after evaporation of the solvents, was purified by chromatography (SiO2, EtOAc/Hexane) to afford the desired product as a colorless to pale yellow oil.

reactant | hydroxy-acetophenone | 10 mmol | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | trifluoroacetic acid | 3 drops, ˜0.01 eq. | FC(C(=O)O)(F)F | C2HF3O2
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 2-Pent-3-enyl-3,4-dihydro-2H-pyran | C(CC=CC)C1OC=CCC1 | C10H16O
